US04511724
Diethyl 5-(1-methyl-5-methylthio-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1,7-dicarboxylate (25 g) in 200 ml methanol, 50 ml H2O and 25 g KOH were heated to reflux for 8 hours. The resulting mixture was treated with 200 ml of std. NaCl and distilled to remove the methanol. The mixture was acidified with 6N HCl while stirring and then cooled. The crystalline mass obtained was separated by filtration, air dried and recrystallized from ethylacetate-ethanol to yield 21 g of 5-(1-methyl-5 -methylthio-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo-[1,2-a]-pyrrole-1,7-dicarboxylic acid, m.p. 212°-3° C.

reactant | Diethyl 5-(1-methyl-5-methylthio-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1,7-dicarboxylate | 25 g | CN1C(=CC=C1SC)C(=O)C1=C(C(=C2N1CCC2C(=O)OCC)C(=O)OCC)C | C21H26N2O5S
reactant | KOH | 25 g | [OH-].[K+]
solvent | methanol | 200 ml | CO | CH4O
solvent | H2O | 50 ml | O | H2O
product | 5-(1-methyl-5 -methylthio-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo-[1,2-a]-pyrrole-1,7-dicarboxylic acid | 21 g | CN1C(=CC=C1SC)C(=O)C1=C(C(=C2N1CCC2C(=O)O)C(=O)O)C | C17H18N2O5S
